US07262185B2
To a solution of hydrazine monohydrate (7.5 g) in ethanol (75 ml), ethyl glycolate (15.6 g) was slowly added dropwise with keeping the reaction temperature under 10° C. at room temperature. The mixture was stirred for 6 hours at room temperature, and n-butyl isothiocyanate (17.3 g) was slowly added dropwise thereto with keeping the reaction temperature under 10° C. The mixture was stirred at room temperature for 5 hours and at 40° C. for 8 hours, cooled to room temperature, and ice-water (50 ml) was added to the mixture. The mixture was stirred for 15 miuntes, 5N aqueous solution of sodium hydroxide (40 ml) was added to the mixture, and the mixture was stirred for 6 hours at 60° C. Concentrated hydrochloric acid was added dropwise to the solution at 0° C. to adjust pH to 6, and the precipitated crystals were removed by filtration. The mixture was concentrated under reduced pressure, and the precipitated crystals were collected by filtration. The crystals were washed with water, to give 4-n-butyl-3-hydroxymethyl-5-mercapto-4H-1,2,4-triazole (22.67 g) as colorless crystals.

reactant | hydrazine monohydrate | 7.5 g | O.NN
reactant | ethyl glycolate | 15.6 g | C(CO)(=O)OCC | C4H8O3
reactant | n-butyl isothiocyanate | 17.3 g | C(CCC)N=C=S | C5H9NS
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-n-butyl-3-hydroxymethyl-5-mercapto-4H-1,2,4-triazole | 22.67 g | C(CCC)N1C(=NN=C1S)CO | C7H13N3OS
